US04497817
While suspending 9 g of 2-(p-chlorophenyl)-3-nitrosoimidazo[2,1-b]benzothiazole in 200 ml of acetic acid, 6 g of zinc powder was gradually added to the suspension at temperatures below 15° C. Insoluble materials were filtered away and 3 drops of concentrated sulfuric acid were added to the filtrate to form precipitates. After filtering away the precipitates, 20 ml of concentrated sulfuric acid was added to the mother liquor and the mixture was allowed to stand overnight. The crystals which formed were recovered by filtration and added to a mixture of ethyl acetate and water. After adding thereto potassium carbonate followed by stirring, the ethyl acetate layer which formed was recovered, washed with water, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure to form crystals, which were recovered and recrystallized from toluene to provide 2.3 g of 3-amino-2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole.

reactant | 2-(p-chlorophenyl)-3-nitrosoimidazo[2,1-b]benzothiazole | 9 g | ClC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1N=O)C=CC=C3 | C15H8ClN3OS
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 6 g | [Zn] | Zn
product | 3-amino-2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole | 2.3 g | NC1=C(N=C2SC3=C(N21)C=CC=C3)C3=CC=C(C=C3)Cl | C15H10ClN3S
